US05827849
f) 1-Benzyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine hydrochloride
Prepared from 1-benzylhexahydro-4-azepinone hydrochloride by reaction with dimethylformamide/phosphorus oxychloride in methylene chloride at 20°-35° C.

reactant | 1-benzylhexahydro-4-azepinone hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CCC1)=O
reactant | dimethylformamide phosphorus oxychloride | CN(C=O)C.P(=O)(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(=C(CC1)C=O)Cl | InChI=1S/C14H16ClNO.ClH/c15-14-7-9-16(8-6-13(14)11-17)10-12-4-2-1-3-5-12;/h1-5,11H,6-10H2;1H
